US04801605
A well stirred mixture of 81.7 g of 2-hydroxy-4,5-dimethoxybenzaldehyde, 62 g of potassium carbonate, 100 ml of t-butyl acrylate and 320 ml of dimethyl formamide is heated at 140° for 5 hours. Most of the solvent is removed, the reaction mixture is diluted with water and the product is extracted with ethyl acetate/ether. After washing with 1N aqueous sodium hydroxide solution and drying over magnesium sulfate, the solvent is removed and the residue dissolved in 130 ml of trifluoroacetic acid. After 10 minutes, the solid mass is diluted with ice water and 70 ml of 20% aqueous sodium hydroxide solution. The precipitated product is collected by filtration and air-dried to yield 6,7-dimethoxy-2H-[1]-benzopyran-3-carboxylic acid, melting at 225°-228°.

reactant | 2-hydroxy-4,5-dimethoxybenzaldehyde | 81.7 g | OC1=C(C=O)C=C(C(=C1)OC)OC | C9H10O4
reactant | potassium carbonate | 62 g | C([O-])([O-])=O.[K+].[K+]
reactant | t-butyl acrylate | 100 ml | C(C=C)(=O)OC(C)(C)C | C7H12O2
solvent | dimethyl formamide | 320 ml | CN(C=O)C | C3H7NO
product | 6,7-dimethoxy-2H-[1]-benzopyran-3-carboxylic acid | COC=1C(=CC2=C(C=C(CO2)C(=O)O)C1)OC | C12H12O5
